US05029979
4-(2-Acetoxyethoxy)benzaldehyde
A mixture of the crude 4-(2-hydroxyethoxy)benzaldehyde (30 g, 0.18 mol) and acetic anhydride (40 g, 0.40 mol) was dissolved in 125 mL of dry pyridine and heated at reflux for 3 hr, after which time the reaction mixture was poured onto ca. 200 g of crushed ice. The crude oil was taken up into 150 mL of dichloromethane and washed twice with 5% HCl (2×75 mL) and once with brine (1×75 mL). The organic layer was then dried with sodium sulfate and the solvent was removed under reduced pressure. The crude residue was distilled at 148° C. (1×10-3 mm) to give 12.9 g (25% overall yield) of a slightly cloudy liquid.

reactant | 4-(2-hydroxyethoxy)benzaldehyde | 0.18 mol, 30 g | OCCOC1=CC=C(C=O)C=C1 | C9H10O3
reactant | acetic anhydride | 0.40 mol, 40 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | pyridine | 125 mL | N1=CC=CC=C1 | C5H5N
product | 4-(2-Acetoxyethoxy)benzaldehyde | C(C)(=O)OCCOC1=CC=C(C=O)C=C1 | C11H12O4
